US04277394
(I) Production of Z-Tyr-(D)-Ala-Gly-MePhe-NH-NH-COCH3
In the same manner as Example 14-(I), 426 mg of Z-Tyr-(D)-Ala-Gly-MePhe-NH-NH2 and 0.06 ml of acetic acid are used toproduce 405 mg of the indicated compound (85%). m.p.142°-143°C.; Rf1 =0.33; [α]D27 -31.8°(c=0.4, DMF)

reactant | Z-Tyr-(D)-Ala-Gly-MePhe-NH-NH2 | 426 mg | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NN)C)C(=O)OCC1=CC=CC=C1 | C32H38N6O7
reactant | acetic acid | 0.06 ml | C(C)(=O)O | C2H4O2
solvent | DMF | CN(C)C=O | C3H7NO
product | Z-Tyr-(D)-Ala-Gly-MePhe-NH-NH-COCH3 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)C)C)C(=O)OCC1=CC=CC=C1 | C34H40N6O8
